US07834051B2
4-bromo-2-fluoro-3-methylbenzonitrile
To a solution of 1-bromo-3-fluoro-4-iodo-2-methylbenzene (2.00 g) in DMF (15 mL) were added zinc cyanide (336 mg) and tetrakis(triphenylphosphine)palladium(0) (367 mg), and the mixture was stirred under an argon atmosphere at 100° C. for 5.5 hr. The reaction mixture was added to water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give the title compound as a colorless solid (yield: 1.21 g, 89%).

reactant | 1-bromo-3-fluoro-4-iodo-2-methylbenzene | 2.00 g | BrC1=C(C(=C(C=C1)I)F)C | C7H5BrFI
reactant | water | O | H2O
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 336 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 367 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-bromo-2-fluoro-3-methylbenzonitrile | yield: 1.21 g, 89% | BrC1=C(C(=C(C#N)C=C1)F)C | C8H5BrFN
